US06716863B2
1-{4-[4-({2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]butyl}-1H-1,2,3-triazole
In an argon atmosphere, 4-[4-(1H-1,2,3-triazol-1-yl)butyl]phenol (218 mg) and 65% oily sodium hydride (39 mg) were dissolved in DMF (5 ml) added thereto. With stirring under ice cooling, 4-(chloromethyl)-2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole (250 mg) was added, followed by stirring at room temperature for 3 hours. After water was added, the reaction mixture was extracted with ethyl acetate. The extract was washed with water and saturated saline and dried over sodium sulfate, after which it was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-ethanol=24:1), after which it was recrystallized from ethyl acetate to yield the titled compound (368 mg) as colorless crystals.

reactant | 4-[4-(1H-1,2,3-triazol-1-yl)butyl]phenol | 218 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | sodium hydride | 39 mg | [H-].[Na+]
reactant | 4-(chloromethyl)-2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole | 250 mg | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)F | C12H9ClFNO
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-{4-[4-({2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]butyl}-1H-1,2,3-triazole | 368 mg | FC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1 | C24H23FN4O2
